US06951879B2
In analogy to example 19.1, 4-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yl]-but-3-yn-1-ol and Dimethylamine were converted to yield {4-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yl]-but-3-ynyl}-dimethyl-amine as light brown semisolid, MS: 385 (MH+, 1Br).

reactant | 4-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yl]-but-3-yn-1-ol | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CCCO | C17H12BrNOS
reactant | Dimethylamine | CNC | C2H7N
product | {4-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yl]-but-3-ynyl}-dimethyl-amine | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CCCN(C)C | C19H17BrN2S
